US07230001B1
Methyl 4-(1H-benzimidazol-5-yl)-4-oxobutanoate
75 ml of phosphorus(III)oxychloride were slowly added dropwise, while cooling externally with water, to a solution of 20.0 g (0.09 mol) of methyl 4-(3,4-diaminophenyl)-4-oxobutanoate in 50 ml of formic acid and the mixture was then stirred for another 40 minutes at a reaction temperature of 60° C. It was left to cool, then the mixture was stirred into 500 g of crushed ice while cooling externally with ice and made weakly ammoniacal. It was then extracted exhaustively with ethyl acetate, the combined extracts were dried over magnesium sulphate and concentrated by evaporation in vacuo. 8.29 g (40% of theoretical) of a colourless, crystalline substance were obtained. IR (KBr): 1732.0, 1679.9 cm−1 (C═O)

reactant | phosphorus(III)oxychloride | 75 ml | O(Cl)Cl.[P+3]
reactant | water | O | H2O
reactant | methyl 4-(3,4-diaminophenyl)-4-oxobutanoate | 0.09 mol, 20.0 g | NC=1C=C(C=CC1N)C(CCC(=O)OC)=O | C11H14N2O3
reactant | KBr | [K+].[Br-]
reactant | formic acid | 50 ml | C(=O)O | CH2O2
product | Methyl 4-(1H-benzimidazol-5-yl)-4-oxobutanoate | N1C=NC2=C1C=CC(=C2)C(CCC(=O)OC)=O | C12H12N2O3
